US07939533B2
b) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-hydroxy-2-methyl-propylamino)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 100 mg (0.175 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-oxo-propylamino)-pyridin-3-yl]-N-methyl-isobutyramide in 1 ml tetrahydrofuran was added a 3 N solution of methylmagnesium bromide in diethyl ether at room temperature. The reaction mixture was stirred at room temperature for 1 h and at 65° C. for 3 h. After cooling to room temperature few drops of a 1 N aqueous solution of hydrochloric acid were added to the reaction mixture, followed by extraction with dichloromethane and washing with saturated sodium carbonate solution. The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to give 51 mg (50%) of the title compound as a white foam.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-oxo-propylamino)-pyridin-3-yl]-N-methyl-isobutyramide | 0.175 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)NCC(C)=O)(C)C)(F)F | C27H24ClF6N3O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-hydroxy-2-methyl-propylamino)-pyridin-3-yl]-N-methyl-isobutyramide | 51 mg, 50% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)NCC(C)(C)O)(C)C)(F)F | C28H28ClF6N3O2
